US08877754B2
N-Ethyl-2-(4-ethynyl-phenyl)-propionamide
To 9.73 g (35.6 mmol) N-ethyl-2-(4-trimethylsilanylethynyl-phenyl)-propionamide (XVI.1) in 400 mL THF, an aqueous solution of 24.81 g (71.2 mmol) tetra-n-butyl-ammonium fluoride (75%) is added. The mixture is stirred at rt for 45 min. After that time, water is added and the mixture is extracted with EtOAc twice. The combined organic layers are washed with brine and dried over sodium sulphate. The solvent is evaporated and the residue is purified by column chromatography (silicia gel; EtOAc/heptane, gradient 50% to 80%) to yield the desired product.

reactant | N-ethyl-2-(4-trimethylsilanylethynyl-phenyl)-propionamide | 35.6 mmol, 9.73 g | C(C)NC(C(C)C1=CC=C(C=C1)C#C[Si](C)(C)C)=O | C16H23NOSi
reactant | tetra-n-butyl-ammonium fluoride | 71.2 mmol, 24.81 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | N-Ethyl-2-(4-ethynyl-phenyl)-propionamide | C(C)NC(C(C)C1=CC=C(C=C1)C#C)=O | C13H15NO
